US09144557B2
A mixture of 3-(4-nitrophenyl)-1H-indol-6-amine (66.3 mg, 0.26 mmol), 1-methyl-1H-indole-5-carboxylic acid (50.4 mg, 0.29 mmol), hydroxybenzotriazole (3.5 mg, 0.03 mmol) and triethylamine (40.1 μL, 0.29 mmol) in DMF (1.00 mL) was stirred for 5 min before 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride (55.2 mg, 0.29 mmol) was added. The reaction was stirred overnight at room temperature and was then diluted with water (5.0 mL). The precipitate that formed was filtered off and sequentially washed with excess methylene chloride and methanol. The solid was recrystallized using hot methanol and gave a bright yellow solid for 1-methyl-N-(3-(4-nitrophenyl)-1H-indol-6-yl)-1H-indole-5-carboxamide (59.8 mg, 0.15 mmol, 56%) after filtration.

reactant | 3-(4-nitrophenyl)-1H-indol-6-amine | 0.26 mmol, 66.3 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1=CNC2=CC(=CC=C12)N | C14H11N3O2
reactant | 1-methyl-1H-indole-5-carboxylic acid | 0.29 mmol, 50.4 mg | CN1C=CC2=CC(=CC=C12)C(=O)O | C10H9NO2
reactant | hydroxybenzotriazole | 0.03 mmol, 3.5 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | triethylamine | 0.29 mmol, 40.1 μL | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 0.29 mmol, 55.2 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 1.00 mL | CN(C)C=O | C3H7NO
solvent | water | 5.0 mL | O | H2O
product | 1-methyl-N-(3-(4-nitrophenyl)-1H-indol-6-yl)-1H-indole-5-carboxamide | 0.15 mmol, 59.8 mg, 56% | CN1C=CC2=CC(=CC=C12)C(=O)NC1=CC=C2C(=CNC2=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C24H18N4O3
